US09060517B2
2 ml of ethanol and 2 ml of concentrated sulfuric acid were added to 0.38 g of 2-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-2-methylpropionitrile. The mixture was stirred for 6 hours at 100° C. Subsequently, saturated aqueous sodium hydrogen carbonate solution was added thereto to stop the reaction. The resultant was then extracted with ethyl acetate followed by distilling off the solvent of the organic layer. Subsequently, the resultant was purified by silica gel column chromatography to obtain 0.24 g of 2-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-2-methylpropionic acid ethyl ester.

reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-2-methylpropionitrile | 0.38 g | FC=1C=CC=C2C=C(C=NC12)OC=1C(=NC=CC1)C(C#N)(C)C | C18H14FN3O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 2 ml | C(C)O | C2H6O
product | 2-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-2-methylpropionic acid ethyl ester | 0.24 g | C(C)OC(C(C)(C)C1=NC=CC=C1OC=1C=NC2=C(C=CC=C2C1)F)=O | C20H19FN2O3
